US08580781B2
Preparation of 2-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]benzyl}-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-2H-pyridazin-3-one (“A227”)
500 mg (1.18 mmol) of 1-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]-benzyl}-N-hydroxy-6-oxo-1,6-dihydropyridazine-3-carboxamidine are dissolved in 15 ml of DMF, and 286 μl (3.54 mmol) of pyridine are added. 124 μl (1.30 mmol) of ethyl chloroformate are subsequently added with stirring, and the solution is stirred at 80° C. for 15 and subsequently at 100° C. for 72 h. The reaction mixture is evaporated, and the residue is purified by means of preparative HPLC; yield: 21.2 mg of “A227” trifluoroacetate; HPLC: Rt=2.07 min; LC-MS: 450 (M+H).

reactant | 1-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]-benzyl}-N-hydroxy-6-oxo-1,6-dihydropyridazine-3-carboxamidine | 1.18 mmol, 500 mg | CN(CCCOC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C(=N)NO)C=CC1)C | C21H25N7O3
reactant | pyridine | 3.54 mmol, 286 μl | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 1.30 mmol, 124 μl | ClC(=O)OCC | C3H5ClO2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-{3-[5-(3-dimethylaminopropoxy)pyrimidin-2-yl]benzyl}-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-2H-pyridazin-3-one | CN(CCCOC=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C2=NOC(N2)=O)C=CC1)C | C22H23N7O4
